US06875765B2
Step 2: (2-Benzyloxy-quinolin-5-yl)-ethanol
(2-Benzyloxy-quinolin-5-yl)-acetic acid methyl ester (0.198 g, 0.64 mmol) was dissolved in 10 mL of anhydrous ether, and cooled to −10° C. Lithium aluminum hydride (1.0M solution in ether, 0.5 mL, 0.5 mmol) was added and stirred at −10° C. for 1 h. The reaction was quenched with 0.5 mL water, then 0.5 mL 15% NaOH, then 1.5 mL water. A solution of Na, K tartrate was added to help solublized the salts. Ethyl acetate was added and the layers were separated. The aqueous layer was washed with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and rotovapped. (2-Benzyloxy-quinolin-5-yl)-ethanol (0.140 g, 78%) was used without further purification. MS m/z 280 (M+1).

reactant | (2-Benzyloxy-quinolin-5-yl)-acetic acid methyl ester | 0.64 mmol, 0.198 g | COC(CC1=C2C=CC(=NC2=CC=C1)OCC1=CC=CC=C1)=O | C19H17NO3
reactant | Lithium aluminum hydride | 0.5 mmol, 1.0M, 0.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 10 mL | CCOCC | C4H10O
product | (2-Benzyloxy-quinolin-5-yl)-ethanol | C(C1=CC=CC=C1)OC1=NC2=CC=CC(=C2C=C1)C(C)O | C18H17NO2
